US05126488
To a stirred solution of diisopropylamine (1.03 ml, 7.34 mmole) in tetrahydrofuran (65 ml) under argon and cooled to -20° C. was added n-butyl lithium (2.76 ml of a 2.42M solution in hexane, 6.67 mmole). After 9 minutes, a cooled (-20° C.) solution of trimethysilyl chloride (2.82 ml, 22.24 mmole) in tetrahydrofuran (10 ml) was added slowly. After 2 minutes more, a cooled (-20° C.) solution of 19-[N-[(2-methoxyethoxy)methyl]trifluoroacetamido]androst-4-ene-3,17-dione (1.08 g, 2.22 mmole) in tetrahydrofuran (10 ml) was added dropwise. The reaction was stirred at -20° C. for 30 minutes and then allowed to warm slowly to room temperature. After 30 minutes at room temperature, triethylamine (10 ml) was added then ethyl ether (350 ml) and the organics washed with saturated sodium bicarbonate (2×100 ml), 150 ml of water-saturated aqueous sodium bicarbonate (2:1) and finally 100 ml of brine-saturated aqueous sodium bicarbonate (3:1). Drying (Na2SO4) and concentration gave 19-[N-[(2-methoxyethoxy)-methyl]trifluoroacetamido]-3,17-bis(trimethylsilyloxy)androsta-2,4,16-triene (quantitative) as a pale-yellow, viscous oil.

reactant | diisopropylamine | 7.34 mmole, 1.03 ml | C(C)(C)NC(C)C | C6H15N
reactant | n-butyl lithium | C(CCC)[Li]
reactant | trimethysilyl chloride | 22.24 mmole, 2.82 ml | C[Si](C)(C)Cl | C3H9ClSi
reactant | 19-[N-[(2-methoxyethoxy)methyl]trifluoroacetamido]androst-4-ene-3,17-dione | 2.22 mmole, 1.08 g | COCCOCN(C(C(F)(F)F)=O)C[C@]12CCC(C=C1CC[C@H]1[C@@H]3CCC([C@@]3(C)CC[C@H]21)=O)=O | C25H34F3NO5
solvent | tetrahydrofuran | 65 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | triethylamine | 10 ml | C(C)N(CC)CC | C6H15N
product | 19-[N-[(2-methoxyethoxy)-methyl]trifluoroacetamido]-3,17-bis(trimethylsilyloxy)androsta-2,4,16-triene | COCCOCN(C(C(F)(F)F)=O)C[C@]12CC=C(C=C1CC[C@H]1[C@@H]3CC=C([C@@]3(C)CC[C@H]21)O[Si](C)(C)C)O[Si](C)(C)C | C31H50F3NO5Si2
